US06737124B2
44. 2-(4-{4-[Dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butoxy}-phenyl)-5-[6-(dimethyltrimethylsilanylmethyl-silanyl)-hexyloxy]-pyrimidine
A suspension of 4-{5-[6-(dimethyltrimethylsilanylmethyl-silanyl)-hexyloxy]-pyrimidin-2-yl}-phenol (0.083 g, 0.200 mmol), toluene-4-sulfonic acid 4-[dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butyl ester (0.126 g, 0.200 mmol) and cesium carbonate (0.078 g, 0.24 mmol) in DMF (10 ml) was stirred at room temperature for 24 h. The reaction mixture was washed with water and the organic layer extracted into ethyl acetatelhexane (3×20 ml, 1:1). The combine extracts were washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residues were purified by column chromatography [silica gel, hexane/ethyl acetate (9:1)] to yield a colorless solid, which was recrystallized from acetonitrile.

reactant | 4-{5-[6-(dimethyltrimethylsilanylmethyl-silanyl)-hexyloxy]-pyrimidin-2-yl}-phenol | 0.200 mmol, 0.083 g | C[Si](CCCCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)O)(C[Si](C)(C)C)C | C22H36N2O2Si2
reactant | toluene-4-sulfonic acid 4-[dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butyl ester | 0.200 mmol, 0.126 g | C[Si](CCCCOS(=O)(=O)C1=CC=C(C=C1)C)(CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C | C21H25F13O3SSi
reactant | cesium carbonate | 0.24 mmol, 0.078 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-{4-[Dimethyl-(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluoro-octyl)-silanyl]-butoxy}-phenyl)-5-[6-(dimethyltrimethylsilanylmethyl-silanyl)-hexyloxy]-pyrimidine | C[Si](CCCCOC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCC[Si](C[Si](C)(C)C)(C)C)(CCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)C | C36H53F13N2O2Si3
